US09034865B2
To a degassed mixture of 6-chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (2-B) (100 mg, 0.5 mmol), sodium tert-butoxide (576 mg, 6.0 mmol), palladium acetate (22.4 mg, 0.1 mmol) and 2,4 di-tert-butylphosphino-2′,4′,6′-triisopropyl biphenyl (63.0 mg, 0.15 mmol) is added dry toluene (2 mL). After stirring for 5 min, benzylmethylamine (0.09 mL, 0.7 mmol) is added to the reaction mixture, which is stirred at 100° C. for 16 h. The reaction mixture is filtered and the residue washed with EtOAc. The filtrate is concentrated under reduced pressure to afford crude material, which is purified by reverse phase HPLC to yield benzyl-methyl-(2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl)-amine (2-C) (50 mg).

reactant | 6-chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.5 mmol, 100 mg | ClC1=CC=CC=2C3=C(NC12)CCN(C3)C | C12H13ClN2
reactant | sodium tert-butoxide | 6.0 mmol, 576 mg | CC(C)([O-])C.[Na+]
reactant | 2,4 di-tert-butylphosphino-2′,4′,6′-triisopropyl biphenyl | 0.15 mmol, 63.0 mg | C(C)(C)(C)PC1=C(C=CC(=C1)PC(C)(C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C29H46P2
reactant | benzylmethylamine | 0.7 mmol, 0.09 mL | C(C1=CC=CC=C1)CN | C8H11N
catalyst | palladium acetate | 0.1 mmol, 22.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl-methyl-(2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl)-amine | 50 mg | C(C1=CC=CC=C1)N(C1=CC=CC=2C3=C(NC12)CCN(C3)C)C | C20H23N3
